US08349849B2
To a solution of 7-(heptyloxy)quinoline-3-carbaldehyde (1.6 g, 5.9 mmol) in THF (30 mL) at 0° C. was added CH3MgI (2 g, 12 mmol, 2 eq.) dropwise over 10 min. The mixture was warmed to it over 8 h. Then, the reaction mixture was quenched (water), extracted (ethyl acetate), washed (brine), dried (Na2SO4), filtered and evaporated to dryness to give the crude product, which was purified by silica gel column chromatography (pet. ether:ethyl acetate, 1:5) to give 1-(7-(heptyloxy)quinolin-3-yl)ethanol as yellow oil (1.35 g, yield 80%). ESI-MS: 288 (M+H)+.

reactant | 7-(heptyloxy)quinoline-3-carbaldehyde | 5.9 mmol, 1.6 g | C(CCCCCC)OC1=CC=C2C=C(C=NC2=C1)C=O | C17H21NO2
reactant | CH3MgI | 12 mmol, 2 g, 2 eq. | C[Mg]I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(7-(heptyloxy)quinolin-3-yl)ethanol | 1.35 g, yield 80% | C(CCCCCC)OC1=CC=C2C=C(C=NC2=C1)C(C)O | C18H25NO2
